US03985788
A mixture of 37.3 g. (0.1 moles) of ethyl α-bromo-β-(3-chloro-4-cyclohexylphenyl)propionate and 150 g. of sodium iodide in 1 liter of anhydrous acetone is refluxed for 4 hours. The reaction mixture is then evaporated to dryness and extracted with ether. The ether is then washed with water, dried and evaporated to dryness to obtain ethyl α-iodo-β-(3-chloro-4-cyclohexylphenyl)propionate.

reactant | ethyl α-bromo-β-(3-chloro-4-cyclohexylphenyl)propionate | 0.1 moles | BrC(C(=O)OCC)CC1=CC(=C(C=C1)C1CCCCC1)Cl | C17H22BrClO2
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | ethyl α-iodo-β-(3-chloro-4-cyclohexylphenyl)propionate | IC(C(=O)OCC)CC1=CC(=C(C=C1)C1CCCCC1)Cl | C17H22ClIO2
